US04922021
5.55 g (30 mmoles) of potassium phthalimide are added in small portions, within 1 hour, to a solution of 7.0 g (30 mmoles) of 1,2-bis(methanesulfonyloxy)-propane in 70 ml of dry dimethyl formamide, heated to 100°-105° C. The mixture is stirred at the same temperature for additional 0.5 hours, thereafter it is cooled and poured onto 350 ml of ice water. The separated crystalline substance is filtered off, washed with water and dried. This crude product, weighing 4.36 g (m.p.: 111°-121° C.) is recrystallized from 25 ml of isopropanol to obtain 3.53 g (41.5%) of N-(β-methanesulfonyloxy-propyl)-phthalimide; m.p.: 129°-132° C.

reactant | potassium phthalimide | 30 mmoles, 5.55 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,2-bis(methanesulfonyloxy)-propane | 30 mmoles, 7.0 g | CS(=O)(=O)OCC(C)OS(=O)(=O)C | C5H12O6S2
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
product | N-(β-methanesulfonyloxy-propyl)-phthalimide | 3.53 g, 41.5% | CS(=O)(=O)OC(CN1C(C=2C(C1=O)=CC=CC2)=O)C | C12H13NO5S
